US06127579
A stirrer, thermometer and reflux condenser were mounted to a 500-ml four-necked flask which was filled with 200 ml of methanol and 12.1 g (0.05 mol) of trans-1-methoxy-2-methane sulfonyloxy indane, and cooled in an ice-salt bath to 0° C. The cream-colored slurry was stirred while 27 g (0.5 mol) of sodium methoxide was added. The reaction liquid was heated to 70° C., stirred for 6 hours, cooled to 25° C., 200 ml of water was added, and extraction was performed twice with 200 ml of methylene chloride and the methylene chloride layer was dried with anhydrous sodium sulfate and vacuum-concentrated to obtain 7.17 g of a reddish-brown oil of 1-methoxyindene (yield of 98.2%). The purity of this compound according to gas chromatography (GC) was 90.9% (surface area percentage). Its physical properties are given below.

reactant | methanol | 200 ml | CO | CH4O
reactant | trans-1-methoxy-2-methane sulfonyloxy indane | 0.05 mol, 12.1 g | CO[C@H]1[C@@H](CC2=CC=CC=C12)OS(=O)(=O)C | C11H14O4S
reactant | sodium methoxide | 0.5 mol, 27 g | C[O-].[Na+]
solvent | water | 200 ml | O | H2O
product | 1-methoxyindene | yield of 98.2% | COC1C=CC2=CC=CC=C12 | C10H10O
